US04851387
123 mg of lithium chloride was suspended in 10 ml of dry tetrahydrofuran under an argon stream, and 0.69 ml of ethyl 2-diethylphosphono-3-methylbutanoate was added under stirring. The mixture was stirred for 5 minutes at room temperature, and then 2.7 ml of a 20% dry tetrahydrofuran solution of diazabicycloundecene was added thereto. The mixture was stirred at room temperature for 10 minutes. Then, 2.0 ml of a dry tetrahydrofuran solution of 773 mg of (4S,5R)-3-benzyloxycarbonyl-2,2-dimethyl-5-formyl-4-isobutyloxazolidine was added thereto, and the mixture was stirred overnight at room temperature. A precipitated inorganic salt was filtered off, and the solvent of the filtrate was distilled off under reduced pressure. The residue was dissolved in 300 ml of benzene and washed with 200 ml of water. The separated aqueous layer was extracted with 75 ml of benzene. The organic solvent layer thus obtained was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (32 g of Kieselgel 60) by using a mixture of hexane/ethyl acetate (10/1) to obtain 623 mg of ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-isopropyl-2-propenoate as a colorless oily substance.

reactant | lithium chloride | 123 mg | [Cl-].[Li+]
reactant | ethyl 2-diethylphosphono-3-methylbutanoate | 0.69 ml | C(C)OP(=O)(OCC)C(C(=O)OCC)C(C)C | C11H23O5P
reactant | diazabicycloundecene | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | (4S,5R)-3-benzyloxycarbonyl-2,2-dimethyl-5-formyl-4-isobutyloxazolidine | 773 mg | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=O)(C)C | C18H25NO4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
product | ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-isopropyl-2-propenoate | 623 mg | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)OCC)C(C)C)(C)C | C25H37NO5
